US05109014
To 7.5 g (165 mmole) of anhydrous dimethylamine in 50 ml of methylene chloride and cooled to -30° C. was added a solution of 20 g (664 mmole) of 2-bromo-4'-difluoromethoxyacetophenone in 50 ml of methylene chloride. After the addition was complete the reaction was allowed to warm to 20° C. Concentration in vacuo, partitioning between diethyl ether and 1M aqueous sodium hydroxide, washing with brine, drying over anhydrous magnesium sulfate, and reconcentration in vacuo yielded 16.8 g of 2-dimethylamino-4'-difluoromethoxyacetophenone, an oil.

reactant | dimethylamine | 165 mmole, 7.5 g | CNC | C2H7N
reactant | 2-bromo-4'-difluoromethoxyacetophenone | 664 mmole, 20 g | BrCC(=O)C1=CC=C(C=C1)OC(F)F | C9H7BrF2O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-dimethylamino-4'-difluoromethoxyacetophenone | 16.8 g | CN(CC(=O)C1=CC=C(C=C1)OC(F)F)C | C11H13F2NO2
